US07553854B2
Step 3. Synthesis of 4-(7-chloro-2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide
To the solution of 4-(7-chloro-2-(methylthio)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (64 mg, 0.175 mmol, 1.0 eq) in 5 mL of DCM was added MCPBA (33 mg, 0.192 mmol, 1.1 eq) at 0° C. and reaction stirred for 30-45 min. Thereafter, it was quenched with water (10 mL) and aqueous phase extracted with ethyl acetate (25 mL×5), combined organic layers dried over sodium sulfate, filtered and condensed under reduced pressure to yield crude product which was sufficiently pure and was carried to next step without further purification. LC/MS (m/z) [382.0] (MH+)

reactant | 4-(7-chloro-2-(methylthio)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 0.175 mmol, 64 mg, 1.0 eq | ClC1=C(C=CC=2N=C(SC21)SC)OC2=CC(=NC=C2)C(=O)NC | C15H12ClN3O2S2
reactant | MCPBA | 0.192 mmol, 33 mg, 1.1 eq | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(7-chloro-2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | ClC1=C(C=CC=2N=C(SC21)S(=O)C)OC2=CC(=NC=C2)C(=O)NC | C15H12ClN3O3S2
